US09238644B2
(d) 2-(2-(2-(2-((6-(Piperidin-4-yl)pyridin-3-yl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)propanamide (62)
TFA (0.50 mL, 6.5 mmol) was added to tert-butyl 4-(5-((4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate A72 (0.060 g, 0.099 mmol) in DCM (5 mL) and the mixture was stirred for 2 hours. The mixture was concentrated under reduced pressure and quenched with 25% aq. NaOH (20 mL). The aqueous phase was extracted with EtOAc (3×20 mL) before the combined organics were dried (phase separation cartridge) and concentrated under reduced pressure. The suspension was sonicated with hexane and concentrated under reduced pressure to give the title compound (0.066 g, 134% residual solvent/water). LCMS-D: rt 3.025 min; m/z 499.3 [M+H]+.

reactant | TFA | 6.5 mmol, 0.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(5-((4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | NC(C(C)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC=2C=CC(=NC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H37F3N6O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(2-(2-((6-(Piperidin-4-yl)pyridin-3-yl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)propanamide | 0.066 g, 134% | N1CCC(CC1)C1=CC=C(C=N1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C(C(=O)N)C)C(F)(F)F | C26H29F3N6O
